US07943622B2
Step 2. Synthesis of 1-(benzyloxycarbonyl)piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 1-(1-(benzyloxycarbonyl)piperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (88.8 mg, 0.160 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 84.4 mg (100%) of the desired product as a white solid. LC-MS: RT=4.94 min, [M+H]+=455.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 1-(1-(benzyloxycarbonyl)piperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 0.160 mmol, 88.8 mg | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C29H38N4O7
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(benzyloxycarbonyl)piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride | 84.4 mg, 100% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C24H30N4O5.2ClH/c29-23(32-17-19-5-2-1-3-6-19)27-12-8-21(9-13-27)33-24(30)28-14-11-26-15-20(28)18-31-22-7-4-10-25-16-22;;/h1-7,10,16,20-21,26H,8-9,11-15,17-18H2;2*1H
